US04826866
3-(Cyclooctylamino)-5-methyl-1-H-pyrazole-4-carboxylic acid, ethyl ester, hydrochloride [1:1]
A stirred slurry of 18.7 g (0.093 mole) of 4-cyclooctyl-3-thiosemicarbazide in 150 mL of absolute ethanol under nitrogen atmosphere was treated with 16.5 g (0.1 mole) of ethyl 2-chloroacetoacetate, stirred at ambient temperature for 1.5 hr, treated with 50 mL of 2N ethanolic hydrogen chloride and heated at reflux for ~16 hr. The yellow-brown reaction mixture was filtered and concentrated in vacuo to a dark oil which solidified. Trituration of the crude product with warm acetone removed most of the color to give 17.9 g of product. Recrystallization from methyl ethyl ketone/isopropyl ether followed by recrystallization from methyl ethyl ketone gave 7.1 g of crystalline product, mp 161°-166° C. which was dried at 82° C. under reduced pressure for 3 hr (mp, 168°-171° C.).

reactant | 4-cyclooctyl-3-thiosemicarbazide | 0.093 mole, 18.7 g | C1(CCCCCCC1)NC(NN)=S | C9H19N3S
reactant | ethyl 2-chloroacetoacetate | 0.1 mole, 16.5 g | ClC(C(=O)OCC)C(=O)C | C6H9ClO3
reactant | hydrogen chloride | 2N, 50 mL | Cl | ClH
solvent | ethanol | 150 mL | C(C)O | C2H6O
product | 3-(Cyclooctylamino)-5-methyl-1-H-pyrazole-4-carboxylic acid, ethyl ester, hydrochloride | 17.9 g | Cl.C1(CCCCCCC1)NC1=NNC(=C1C(=O)OCC)C | InChI=1S/C15H25N3O2.ClH/c1-3-20-15(19)13-11(2)17-18-14(13)16-12-9-7-5-4-6-8-10-12;/h12H,3-10H2,1-2H3,(H2,16,17,18);1H
